US07812022B2
2,6-Difluoro-N-{3-[3-(2-{[3-hydroxy-4-(methyloxy)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide
A mixture of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (prepared according to a procedure similar to that described in Example 27, Step C) and 5-amino-2-(methyloxy)phenol were heated in isopropanol with catalytic conc. aq. HCl using conditions similar to those described in Example 27, Step D. HRMS C31H23N6O3F2 (M+H)+ calcd 565.1794, found 565.1795.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | 5-amino-2-(methyloxy)phenol | NC=1C=CC(=C(C1)O)OC | C7H9NO2
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,6-Difluoro-N-{3-[3-(2-{[3-hydroxy-4-(methyloxy)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC(=C(C=C2)OC)O)C(=CC=C1)F | C31H22F2N6O3
